
* op
* print a b y

*.ic v(s)=5v v(bb)=4999mV v(a)=0 v(aa)=3mV v(yy)=2mV v(ss)=1mV
* option trtol=7
* set xtrtol=2 trtol=8
* set GMIN=1.0e-3

* Va a 0 dc 0 PWL(0s 0v 1ns 5v)
* Va a 0 dc 0 SIN(2.5 2.5 0.5 0)
* Va a 0 5v



.title SN74LS00_sim
.include SN74LS00.cir

V0 s 0 5v
Va a 0 dc 0 PULSE(
+ 1mv 5v 0
+ 1ms 1ms 1s 2002ms
+ )

Rs ss s 5k
Rb bb s 1m
Ra aa a 0

Vb b 0 5v

XSN74LS00 yy aa bb ss 0 SN74LS00

Ry yy 0 10k

.control
  OPTION ABSTOL=1e-15.
  OPTION GMIN=1.0e-12.
  OPTION ITL1=1e5
  OPTION RSHUNT=1e12
  OPTION RELTOL=1e-5
  tran 1ms 999ms
  print time
  plot a
  plot yy
.endc

